US07385061B2
4-[1-(3-Methoxy-4-hydroxyphenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-amine
To a solution of 4-[1-(3-methoxy-4-benzyloxyphenacyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine (1.00 g) in THF (20 ml) is added palladium on carbon (10%, 0.2 g). The mixture is stirred under a hydrogen atmosphere for 1 hour. The catalyst is filtered and the filtrate is evaporated to dryness to give the title compound in pure form, m.p. 265° C. (This compound is also listed as Example 74 in Table 1.)

reactant | 4-[1-(3-methoxy-4-benzyloxyphenacyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine | 1.00 g | COC=1C=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)N)=O)C=CC1OCC1=CC=CC=C1 | C25H21N5O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 4-[1-(3-Methoxy-4-hydroxyphenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-amine | COC=1C=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)N)=O)C=CC1O | C18H15N5O4
